US07872036B2
10 ml of a N,N-dimethylformamide solution of 3.4 g of 3-nitro-1,2,4-triazole was added dropwise to a suspension of 1.2 g (60%) of sodium hydride and 50 ml of N,N-dimethylformamide under cooling with ice. After generation of hydrogen stopped, 4.3 g of 2,4-difluorobenzaldehyde was added, followed by stirring at 70° C. for 3 hours. The mixture was concentrated under reduced pressure, 200 ml of water was added, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the obtained crude crystals were washed with diisopropyl ether to obtain 1.6 g of 4-(3-nitro-1,2,4-triazolyl)-2-fluorobenzaldehyde.

reactant | 3-nitro-1,2,4-triazole | 3.4 g | [N+](=O)([O-])C1=NNC=N1 | C2H2N4O2
reactant | sodium hydride | 1.2 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 2,4-difluorobenzaldehyde | 4.3 g | FC1=C(C=O)C=CC(=C1)F | C7H4F2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-(3-nitro-1,2,4-triazolyl)-2-fluorobenzaldehyde | 1.6 g | [N+](=O)([O-])C1=NNC(=N1)C1=CC(=C(C=O)C=C1)F | C9H5FN4O3
